US07179809B2
Methyl 2-bromo-5-(trans-2-methoxy-vinyl)-3H-imidazole-4-carboxylate
Under an argon atmosphere 38 ml of a 0.5 M solution of potassium-bis(trimethylsilyl)amide in toluene are added dropwise to an ice-cooled solution of 6.64 g methoxymethyltriphenyl phosphonium chloride in 140 ml of tetrahydrofuran over 10 min. The reaction mixture is stirred for a further 15 min in the ice bath and then cooled to −70° C. Then a solution of 4.41 g methyl 2-bromo-3-(2-butyn-1-yl)-5-formyl-3H-imidazole-4-carboxylate in 40 ml of tetrahydrofuran is added dropwise over 30 min. After a further 45 min stirring at −70° C. the solution is heated to ambient temperature and stirred for another 1 h at this temperature. Then water is added to the reaction solution and this is extracted with ethyl acetate. The organic extracts are dried over sodium sulphate, the solvent is removed and the residue is chromatographed through silica gel (cyclohexane/ethyl acetate 9:1->7:3).

reactant | potassium bis(trimethylsilyl)amide | [K].C[Si](C)(C)[N-][Si](C)(C)C
reactant | methoxymethyltriphenyl phosphonium chloride | 6.64 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | methyl 2-bromo-3-(2-butyn-1-yl)-5-formyl-3H-imidazole-4-carboxylate | 4.41 g | BrC1=NC(=C(N1CC#CC)C(=O)OC)C=O | C10H9BrN2O3
reactant | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 140 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | Methyl 2-bromo-5-(trans-2-methoxy-vinyl)-3H-imidazole-4-carboxylate | BrC1=NC(=C(N1)C(=O)OC)\C=C\OC | C8H9BrN2O3
